US08106090B2
[(1R,2S)-1-Benzyl-3-[(2S)-2-(4-fluoro-phenyl)-pyrrolidin-1-yl]-2-hydroxy-propyl)-carbamic acid tert-butyl ester
Using general procedure 1 and purification method D with [(1R)-1-{(2R)-oxiran-2-yl}-2-phenyl-ethyl]carbamic acid tert-butylester (0.10 g, 0.38 mmol) and (2S)-2-(4-fluorophenyl)-pyrrolidine (0.10 g, 0.60 mmol) gives the title compound.

reactant | [(1R)-1-{(2R)-oxiran-2-yl}-2-phenyl-ethyl]carbamic acid tert-butylester | 0.38 mmol, 0.10 g | C(C)(C)(C)OC(N[C@H](CC1=CC=CC=C1)[C@H]1OC1)=O | C15H21NO3
reactant | (2S)-2-(4-fluorophenyl)-pyrrolidine | 0.60 mmol, 0.10 g | FC1=CC=C(C=C1)[C@H]1NCCC1 | C10H12FN
product | [(1R,2S)-1-Benzyl-3-[(2S)-2-(4-fluoro-phenyl)-pyrrolidin-1-yl]-2-hydroxy-propyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]([C@H](CN1[C@@H](CCC1)C1=CC=C(C=C1)F)O)CC1=CC=CC=C1)=O | C25H33FN2O3
